US04284821
205.6 g (1.19 mols) of 2,4,4-trichlorobut-3-enecarboxylic acid [produced according to Monateshefte d. Chemie, 98, 2138 (1967)] is heated with 290 ml of thionyl chloride for 5 hours at 85° C. The reaction solution is concentrated by evaporation and subsequently distilled to obtain 209.7 g of 2,4,4-trichlorobut-3-enecarboxylic acid chloride; b.p. 75°-76° C./20 mm Hg. The spectroscopic data of the substance obtained agree with those of the products obtained according to (a).

reactant | 2,4,4-trichlorobut-3-enecarboxylic acid | 1.19 mols, 205.6 g | ClC(CC(=O)O)C=C(Cl)Cl | C5H5Cl3O2
reactant | thionyl chloride | 290 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,4,4-trichlorobut-3-enecarboxylic acid chloride | 209.7 g | ClC(CC(=O)Cl)C=C(Cl)Cl | C5H4Cl4O
